US07034039B2
Tert-butyl[4-butoxy-2-isobutyl-1-oxo-6-(5-oxo-4,5-dihydro-1,2,4-oxadiazol-3-yl)-1,2-dihydro-3-isoquinolinyl]methylcarbamate (0.44 g, 0.9 mmol) was dissolved in a solution of 4N hydrogen chloride in ethyl acetate (10 ml) and the mixture was stirred at room temperature for 3 h. The reaction mixture was concentrated under reduced pressure and the obtained crystals were recrystallized from methanol-diethyl ether to give 3-(aminomethyl)-4-butoxy-2-isobutyl-6-(5-oxo-4,5-dihydro-1,2,4-oxadiazol-3-yl)-1(2H)-isoquinolinone hydrochloride (0.36 g, 94.7%) as crystals.

reactant | Tert-butyl[4-butoxy-2-isobutyl-1-oxo-6-(5-oxo-4,5-dihydro-1,2,4-oxadiazol-3-yl)-1,2-dihydro-3-isoquinolinyl]methylcarbamate | 0.9 mmol, 0.44 g | C(C)(C)(C)OC(NCC=1N(C(C2=CC=C(C=C2C1OCCCC)C1=NOC(N1)=O)=O)CC(C)C)=O | C25H34N4O6
reactant | hydrogen chloride | 4N | Cl | ClH
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
product | 3-(aminomethyl)-4-butoxy-2-isobutyl-6-(5-oxo-4,5-dihydro-1,2,4-oxadiazol-3-yl)-1(2H)-isoquinolinone hydrochloride | 0.36 g, 94.7% | Cl.NCC=1N(C(C2=CC=C(C=C2C1OCCCC)C1=NOC(N1)=O)=O)CC(C)C | InChI=1S/C20H26N4O4.ClH/c1-4-5-8-27-17-15-9-13(18-22-20(26)28-23-18)6-7-14(15)19(25)24(11-12(2)3)16(17)10-21;/h6-7,9,12H,4-5,8,10-11,21H2,1-3H3,(H,22,23,26);1H
